US07737166B2
Methyl 4-acetylamino-5-bromosalicylate (I-249)
N-Bromosuccinimide (0.94 g, 5.3 mmol) was added to an N,N-dimethylformamide (8 ml) solution of methyl 4-acetylaminosalicylate (I-248) (1.1 g, 5.0 mmol), followed by stirring with heating under reflux at 70 to 75° C. for 2 hours and a half. After cooling to room temperature, ethyl acetate was added, followed by washing twice with saturated brine and drying over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with chloroform/methanol (100:1) gave the entitled compound (0.64 g, 45%) as a pale red solid.

reactant | N-Bromosuccinimide | 5.3 mmol, 0.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | methyl 4-acetylaminosalicylate | 5.0 mmol, 1.1 g | C(C)(=O)NC=1C=C(C(C(=O)OC)=CC1)O | C10H11NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-acetylamino-5-bromosalicylate | 0.64 g, 45% | C(C)(=O)NC=1C=C(C(C(=O)OC)=CC1Br)O | C10H10BrNO4
